US04294960
Formic acid (18.95 g.) was added dropwise to acetic anhydride (42.0 g.) under stirring at room temperature over 5 minutes, and stirred at 50° C. for an hour. 2-(2-Aminothiazol-4-yl)-2-n-butoxyiminoacetic acid (syn isomer, 25 g.) was added to the solution under ice cooling, and stirred at room temperature for 3 hours and additionally at 30° C. for an hour. After concentrating the resultant solution in vacuo, the residue was dissolved in diethyl ether. The solution was washed with water and a saturated aqueous solution of sodium chloride in turn, dried over magnesium sulfate and concentrated in vacuo. The obtained oil was triturated with a solution of n-hexane (1 part) and diisopropyl ether (1 part), and collected by filtration to give 2-(2-formamidothiazol-4-yl)-2-n-butoxyiminoacetic acid (syn isomer, 20.1 g.).

reactant | acetic anhydride | 42.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(2-Aminothiazol-4-yl)-2-n-butoxyiminoacetic acid | 25 g | NC=1SC=C(N1)C(C(=O)O)=NOCCCC | C9H13N3O3S
solvent | Formic acid | 18.95 g | C(=O)O | CH2O2
product | 2-(2-formamidothiazol-4-yl)-2-n-butoxyiminoacetic acid | 20.1 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCCC | C10H13N3O4S
